US06962922B2
2-Dimethylamino-ethyl 4-[1-methyl-2,4-dioxo-6-(3-phenyl-prop-1-ynyl)-1,4-dihydro-2H-quinazolin-3-ylmethyl]-benzoate
A mixture of 0.72 g (1.7 mmol) 4-[1-Methyl-2,4-dioxo-6-(3-phenyl-prop-1-ynyl)-1,4-dihydro-2H-quinazolin-3-ylmethyl]-benzoic acid, 0.43 g (2.2 mmol) EDAC-HCl, 0.29 g (2.2 mmol) HOBT in 10 ml DMF is treated with 0.19 g (2.2 mmol) ethanolamine. The resulting mixture is stirred overnight at room temperature before diluting with water and extracting with 1:1 EtOAc/Et2O (2×). The combined organic extracts are washed with saturated aqueous NaCl (3×), dried (MgSO4). The resulting oil is dissolved in EtOAc and treated with saturated methanolic HCl. Concentration provided a solid which is triturated in EtOAc and filtered.

reactant | 4-[1-Methyl-2,4-dioxo-6-(3-phenyl-prop-1-ynyl)-1,4-dihydro-2H-quinazolin-3-ylmethyl]-benzoic acid | 1.7 mmol, 0.72 g | CN1C(N(C(C2=CC(=CC=C12)C#CCC1=CC=CC=C1)=O)CC1=CC=C(C(=O)O)C=C1)=O | C26H20N2O4
reactant | EDAC-HCl | 2.2 mmol, 0.43 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 2.2 mmol, 0.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethanolamine | 2.2 mmol, 0.19 g | C(O)CN | C2H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Dimethylamino-ethyl 4-[1-methyl-2,4-dioxo-6-(3-phenyl-prop-1-ynyl)-1,4-dihydro-2H-quinazolin-3-ylmethyl]-benzoate | CN1C(N(C(C2=CC(=CC=C12)C#CCC1=CC=CC=C1)=O)CC1=CC=C(C(=O)OCCN(C)C)C=C1)=O | C30H29N3O4
